US05747423
(d) 2-Chloro-6-methyl-4-(1 -methyl-3-trifluoromethyl-5-pyrazolyloxy)pyrimidine
5 g 2,4-Dichloro-6-methylpyrimidine, 5.3 g 1-methyl-3-trifluoromethyl-2-pyrazolin-5-one, and 6.2 g potassium carbonate in 100 mL dry acetonitrile are refluxed for 2 hours. The mixture is poured into water, extracted with ethyl acetate and chromatographed to give 6.1 g of the title compound (m.p. 65° C.).

reactant | 2,4-Dichloro-6-methylpyrimidine | 5 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | 1-methyl-3-trifluoromethyl-2-pyrazolin-5-one | 5.3 g | CN1N=C(CC1=O)C(F)(F)F | C5H5F3N2O
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-Chloro-6-methyl-4-(1 -methyl-3-trifluoromethyl-5-pyrazolyloxy)pyrimidine | 6.1 g | ClC1=NC(=CC(=N1)OC1=CC(=NN1C)C(F)(F)F)C | C10H8ClF3N4O
